US06706763B1
4-Methoxy-3-[N-(4-trifluoromethylbenzyl)carbamoyl]benzoic acid
To 500 mg of 5-formyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide were added 20 ml of acetone and 0.5 ml of Jones reagent under cooling with ice, and the mixture was stirred for 25 minutes. Then, 0.2 ml of Jones reagent were added further and the mixture was stirred for 35 minutes. To the reaction mixture were added 100 ml of water, which was extracted (100 ml×2) with methylene chloride (small quantity of acetone was added). After washed with 50 ml of saturated brine, the organic layer was dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue obtained was purified by means of column chromatography (silica gel, methylene chloride:methanol=100:1, quantity of methanol was increased gradually), then recrystallized from hexane-acetone to obtain 270 mg of aimed product as white crystals.

reactant | 5-formyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 500 mg | C(=O)C=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C17H14F3NO3
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | Jones reagent | 0.5 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones reagent | 0.2 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | water | 100 ml | O | H2O
product | 4-Methoxy-3-[N-(4-trifluoromethylbenzyl)carbamoyl]benzoic acid | 270 mg | COC1=C(C=C(C(=O)O)C=C1)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C17H14F3NO4
